US06025375
To a solution of ethyl [3-[2-[(4,5-diphenyloxazol-2-yl)methyl]-1-cyclopenten-1-yl]phenoxy]acetate (0.5 g) in ethanol (20 ml) was added 10% palladium on carbon (100 mg). After being stirred for 6 hours under hydrogen atmosphere, the reaction mixture was filtered. The solvent was evaporated in vacuo to give ethyl [3-[2-[(4,5-diphenyloxazol-2-yl)methyl]cyclopentyl]phenoxy]acetate (400 mg).

reactant | ethyl [3-[2-[(4,5-diphenyloxazol-2-yl)methyl]-1-cyclopenten-1-yl]phenoxy]acetate | 0.5 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CC1=C(CCC1)C=1C=C(OCC(=O)OCC)C=CC1 | C31H29NO4
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | ethyl [3-[2-[(4,5-diphenyloxazol-2-yl)methyl]cyclopentyl]phenoxy]acetate | 400 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CC1C(CCC1)C=1C=C(OCC(=O)OCC)C=CC1 | C31H31NO4
